US06803484B2
To an autoclave hydrogenation apparatus under nitrogen was charged water-wet 5% palladium on carbon (453 g), ethanol (6.36 L), 2-phenylpropionitrile (636 g, 4.85 moles) and finally concentrated (12 M) hydrochloric acid (613 g, 5.6 mole). The mixture was stirred rapidly and pressurized to 75-78 psi with hydrogen. The mixture was then heated to 50-64° C. for 3 hours. 1H NMR analysis of an aliquot showed less than 5% starting material. The reaction mixture was depressurized and filtered to afford two lots of filtrate that were concentrated under reduced pressure to ˜400 mL each. To each lot was added methyl tert-butyl ether (MTBE) (2.2 L each) and the precipitated solids were allowed to stir overnight. Each lot was filtered and the collected solids were each washed with fresh MTBE (100 mL) and dried overnight. The lots were combined to afford 2-phenyl-1-propylamine HCl (634.4 g, 76.2%) as a white powder.

reactant | water | 453 g | O | H2O
reactant | 2-phenylpropionitrile | 4.85 moles, 636 g | C1(=CC=CC=C1)C(C#N)C | C9H9N
reactant | hydrochloric acid | 5.6 mole, 12 M, 613 g | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 6.36 L | C(C)O | C2H6O
product | 2-phenyl-1-propylamine HCl | 634.4 g, 76.2% | Cl.C1(=CC=CC=C1)C(CN)C | InChI=1S/C9H13N.ClH/c1-8(7-10)9-5-3-2-4-6-9;/h2-6,8H,7,10H2,1H3;1H
